US06291452B1
A mixture of 2-bromoacetylamino-3-ethyl-2′-fluorobenzophenone (12.0 g), hydroxylamine hydrochloride (17.65 g), sodium hydroxide (8.58 g) in ethanol was stirred at 30-40° C. for 4.5 hours. Concentrated aqueous hydrochloric acid (14.8 ml) was added to the reaction mixture, which was stirred at room temperature overnight. The mixture was evaporated in vacuo to afford precipitates. Water was added to the resultant mixture. The precipitate was collected by filtration and washed with water to afford 5-(2-fluorophenyl)-9-ethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide (9.25 g, 94.2%).

reactant | 2-bromoacetylamino-3-ethyl-2′-fluorobenzophenone | 12.0 g | BrCC(=O)NC1=C(C(=O)C2=C(C=CC=C2)F)C=CC=C1CC | C17H15BrFNO2
reactant | hydroxylamine hydrochloride | 17.65 g | Cl.NO
reactant | sodium hydroxide | 8.58 g | [OH-].[Na+]
reactant | hydrochloric acid | 14.8 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-(2-fluorophenyl)-9-ethyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide | 9.25 g, 94.2% | FC1=C(C=CC=C1)C1=[N+](CC(NC2=C1C=CC=C2CC)=O)[O-] | C17H15FN2O2
